US04968702
3-(Acetylethylamino)-2-[1,1'-biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid
A 2.8 g portion of 2-[1,1'-biphenyl]-4-yl-3-(ethylamino)-6-fluoro-4-quinolinecarboxylic acid was suspended in 25 ml of acetic anhydride. To this suspension was added 5 drops of concentrated sulfuric acid, then the mixture was heated at 80° C. for 2 hours. The solution was cooled, added to 200 ml of water and stirred for 30 minutes. The resulting solid was collected, washed with water, then dichloromethane and dried at 110° C. in vacuo, giving 2.0 g of the desired product as a pale yellow solid, mp 260°-262° C.

reactant | 2-[1,1'-biphenyl]-4-yl-3-(ethylamino)-6-fluoro-4-quinolinecarboxylic acid | C1(=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1NCC)C(=O)O)F)C1=CC=CC=C1 | C24H19FN2O2
reactant | water | 200 ml | O | H2O
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 3-(Acetylethylamino)-2-[1,1'-biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid | 2.0 g | C(C)(=O)CCNC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)C1=CC=CC=C1 | C26H21FN2O3
